US04177273
4,5-dihydro-4-hydroxy-2-(2-hydroxybutyl)-6-phenylpyridazin-3(2H)-one
A mixture of 3.5 grams (18 mmol) of 3-benzoyl-2-hydroxy-propionic acid and 1.9 grams (18 mmol) of 1-hydrazino-2-butanol in 40 ml of n-butanol is refluxed under nitrogen at 120° C. for 18 hours. After evaporation of the solvent, the product is partitioned between ether and water. The ether layer is washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate, and evaporated. The resulting residue is dissolved in 2% ethanol-chloroform and filtered through 200 grams of silica gel yielding after evaporation 4,5-dihydro-4-hydroxy-2-(2-hydroxybutyl)-6-phenylpyridazin-3(2H)-one, m.p. 92°-94° C.

reactant | 3-benzoyl-2-hydroxy-propionic acid | 18 mmol, 3.5 grams | C(C1=CC=CC=C1)(=O)CC(C(=O)O)O | C10H10O4
reactant | 1-hydrazino-2-butanol | 18 mmol, 1.9 grams | N(N)CC(CC)O | C4H12N2O
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 4,5-dihydro-4-hydroxy-2-(2-hydroxybutyl)-6-phenylpyridazin-3(2H)-one | OC1C(N(N=C(C1)C1=CC=CC=C1)CC(CC)O)=O | C14H18N2O3
